US07135492B2
5-Chloro-2-methylphenyl isothiocyanate (36.6 g; 0.2 mol) was added to the solution of methylamine hydrochloride (26.8 g; 0.4 mol) in chloroform (300 mL). Triethylamine (65 mL; 0.47 mol) was added dropwise while stirring at ambient temperature. The mixture was stirred for 18 hours. The solvent was evaporated. The residue was treated with ethyl acetate (800 mL) and water (400 mL). The organic phase was separated, washed with water (2×300 mL), dried over magnesium sulfate and evaporated to dryness to give 41.6 g of N-(5-chloro-2-methylphenyl)-N′-methylthiourea, m.p. 139–140° C.

reactant | 5-Chloro-2-methylphenyl isothiocyanate | 0.2 mol, 36.6 g | ClC=1C=CC(=C(C1)N=C=S)C | C8H6ClNS
reactant | methylamine hydrochloride | 0.4 mol, 26.8 g | Cl.CN
reactant | Triethylamine | 0.47 mol, 65 mL | C(C)N(CC)CC | C6H15N
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | N-(5-chloro-2-methylphenyl)-N′-methylthiourea | 41.6 g | ClC=1C=CC(=C(C1)NC(=S)NC)C | C9H11ClN2S
